US04861769
To a suspension of benzhydryl 7β-[2-(2-aminothiazol-4-yl)-2-(cyclopropyloxyimino)acetamido]-3-(5,6-dioxo-4-methyl-1,4,5,6-tetrahydro-1,2,4-triazin-3-yl)thiomethyl-3-cephem-4-carboxylate (syn isomer) (350 mg) in a mixture of anisol (0.5 ml) and methylene chloride (1.5 ml) was added trifluoroacetic acid (1 ml) under ice-cooling. The mixture was stirred at the same temperature for 30 minutes. The mixture was poured into diisopropyl ether (100 ml) and the resulted precipitate was collected. The precipitate was added to a mixture of ice-water and ethyl acetate and adjusted to pH 7 with saturated aqueous solution of sodium bicarbonate. The aqueous layer was separated and adjusted to pH 3 with 6N hydrochloric acid. The precipitate was collected and dried over phosphorus pentoxide to give 7β-[2-(2-aminothiazol-4-yl)-2-(cyclopropyloxyimino)acetamido]-3-(5,6-dioxo-4-methyl-1,4,5,6-tetrahydro-1,2,4-triazin-3-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (157 mg).

reactant | benzhydryl 7β-[2-(2-aminothiazol-4-yl)-2-(cyclopropyloxyimino)acetamido]-3-(5,6-dioxo-4-methyl-1,4,5,6-tetrahydro-1,2,4-triazin-3-yl)thiomethyl-3-cephem-4-carboxylate | 350 mg | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NNC(C(N2C)=O)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC1CC1 | C33H30N8O7S3
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropyl ether | 100 ml | C(C)(C)OC(C)C | C6H14O
solvent | anisol | 0.5 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | methylene chloride | 1.5 ml | C(Cl)Cl | CH2Cl2
product | 7β-[2-(2-aminothiazol-4-yl)-2-(cyclopropyloxyimino)acetamido]-3-(5,6-dioxo-4-methyl-1,4,5,6-tetrahydro-1,2,4-triazin-3-yl)thiomethyl-3-cephem-4-carboxylic acid | 157 mg | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NNC(C(N2C)=O)=O)C(=O)O)C1=O)=NOC1CC1 | C20H20N8O7S3
